US08076336B2
f) N-[3-(2-Bromoacetyl)-5-(pentafluorosulfanyl)phenyl]acetamide (O1.001)
N-[3-Acetyl-5-(pentafluorosulfanyl)phenyl]acetamide (859 mg) was dissolved in a mixture of methanol (10 ml) and THF (10 ml) and phenyltrimethylammonium tribromide (1.065 g) was added in portions while stirring. After stirring at RT for 2 h, the mixture was heated to 40° C. for a further 3 h. After cooling, the reaction mixture was added to 2 N sulfuric acid and the aqueous phase was extracted 3 times with ethyl acetate. The combined extracts were dried over sodium sulfate, filtered and concentrated. The crude product was purified using silica gel with ethyl acetate/heptane as the eluent. 480 mg of the desired compound were obtained.

reactant | N-[3-Acetyl-5-(pentafluorosulfanyl)phenyl]acetamide | 859 mg | C(C)(=O)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)NC(C)=O | C10H10F5NO2S
reactant | phenyltrimethylammonium tribromide | 1.065 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | sulfuric acid | 2 N | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 10 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[3-(2-Bromoacetyl)-5-(pentafluorosulfanyl)phenyl]acetamide | 480 mg | BrCC(=O)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)NC(C)=O | C10H9BrF5NO2S
